US04064124
2,3,5,6-Tetraphenylpyrazine
12 parts of 2-nitro-2,3-diphenyl-oxirane melting at from 109° to 110° C and 100 parts by volume of liquid ammonia are shaken for 6 hours in an autoclave at 100° and 65 atmospheres. After evaporation of the ammonia, the solid residue is treated with water and the constituent left undissolved is filtered off and recrystallized from glacial acetic acid. 5.2 parts of 2,3,5,6-tetraphenylpyrazine (54% of theory) melting at from 253° to 254° C are obtained.

reactant | 2-nitro-2,3-diphenyl-oxirane | [N+](=O)([O-])C1(OC1C1=CC=CC=C1)C1=CC=CC=C1 | C14H11NO3
reactant | ammonia | N | H3N
product | 2,3,5,6-Tetraphenylpyrazine | C1(=CC=CC=C1)C1=NC(=C(N=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C28H20N2
